US08669271B2
4-[2-(1-tert-Butoxycarbonyl-piperidin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-5-yl]-piperazine-1-carboxylic acid benzyl ester
4-(5-Chloro-2-methyl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (530 mg) is added to a mixture of piperazine-1-carboxylic acid benzyl ester (460 μL), Pd2(dba)3 (360 mg), Xantphos (700 mg), and potassium tert-butylate (270 mg) in toluene (16 mL) under an argon atmosphere. The reaction mixture is stirred in an oil bath at 105° C. for 4 h. The reaction mixture is concentrated in vacuo and chromatographed on silica gel (cyclohexane/ethyl acetate 70:30→35:65) to give the title compound. LC (method 10): tR=1.68 min; Mass spectrum (ESI+): m/z=523 [M+H]+.

reactant | 4-(5-Chloro-2-methyl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 530 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1(CC=2C(=CN=C(C2)Cl)O1)C | C18H25ClN2O3
reactant | piperazine-1-carboxylic acid benzyl ester | 460 μL | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | Xantphos | 700 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium tert-butylate | 270 mg | CC(C)(C)[O-].[K+]
solvent | toluene | 16 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 360 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[2-(1-tert-Butoxycarbonyl-piperidin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-5-yl]-piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1C=C2C(=CN1)OC(C2)C2CCN(CC2)C(=O)OC(C)(C)C | C29H38N4O5
